US06245790B1
To a solution of methyl 2-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoate (37 mg) in MeOH-1,4-dioxane (1:1, 3 ml) was added iN NaOH solution (1.0 ml) at 5° C. and the mixture was stirred at 80° C. for 3 hours. After cooling, the mixture was acidified with iN HCl and extracted with EtOAc. The organic layer was washed with water and brine, dried over magnesium sulfate, evaporated in vacuo. The residue was dissolved in MeOH-1,4-dioxane (1:1, 2 ml) and 1N NaOH solution (0.0824 ml) was added thereto. The mixture was evaporated and Et2 was added. The resulting solid was collected by filtration to give sodium 2-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl1methyl}benzoate (19.9 mg).

reactant | methyl 2-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}benzoate | 37 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC1=C(C(=O)OC)C=CC=C1 | C30H27NO3
reactant | NaOH | 1.0 ml | [OH-].[Na+]
solvent | MeOH 1,4-dioxane | 3 ml | CO.O1CCOCC1
solvent | HCl | Cl | ClH
product | sodium 2-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl1methyl}benzoate | 19.9 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC1=C(C(=O)[O-])C=CC=C1.[Na+] | InChI=1S/C29H25NO3.Na/c31-29(32)25-18-10-8-16-23(25)19-22-15-7-9-17-24(22)28-30-26(20-11-3-1-4-12-20)27(33-28)21-13-5-2-6-14-21;/h1-6,8,10-14,16-18,22H,7,9,15,19H2,(H,31,32);/q;+1/p-1
